US07795436B2
cis-6-(2,4-Dichloro-phenyl)-2,3,4,4a,9,9a-hexahydro-1H-3-aza-fluorene
To a solution of cis-6-(2,4-dichloro-phenyl)-1,2,3,4,4a,9a-hexahydro-3-aza-fluoren-9-one (40 mg, 0.12 mmol) in trifluoroacetic acid (2.0 mL) was added Et3SiH (62 mg, 0.53 mmol). The reaction mixture was stirred at 20° C. for 15 h then concentrated in vacuo. The residue was basified with NH4OH then extracted with CH2Cl2. The organic layer was dried over MgSO4, filtered and concentrated in vacuo to give the crude title compound.

reactant | cis-6-(2,4-dichloro-phenyl)-1,2,3,4,4a,9a-hexahydro-3-aza-fluoren-9-one | 0.12 mmol, 40 mg | ClC1=C(C=CC(=C1)Cl)C=1C=C2[C@H]3CNCC[C@H]3C(C2=CC1)=O | C18H15Cl2NO
reactant | Et3SiH | 0.53 mmol, 62 mg | [SiH](CC)(CC)CC | C6H16Si
solvent | trifluoroacetic acid | 2.0 mL | FC(C(=O)O)(F)F | C2HF3O2
product | cis-6-(2,4-Dichloro-phenyl)-2,3,4,4a,9,9a-hexahydro-1H-3-aza-fluorene | ClC1=C(C=CC(=C1)Cl)C=1C=C2[C@H]3CNCC[C@H]3CC2=CC1 | C18H17Cl2N
